US07214824B2
2-(4-tert-Butylphenoxy)-N-{4-[(ethylsulfonyl)amino]benzyl}acetamide
To a N,N-dimethylformamide (DMF) (5 ml) solution of (4-tert-butylphenoxy)acetic acid (330 mg, 1.50 mmol) and N-[4-(aminomethyl)phenyl]ethanesulfonamide hydrochloride (451 mg, 1.80 mmol, Journal of Medicinal Chemistry 2003, 46(14), 3116–3126), 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (431 mg, 2.25 mmol), 4-(dimethylamino)pyridine (DMAP) (46 mg, 0.38 mmol) and triethylamine (506 mg, 5.0 mmol) were added and the mixture was stirred for 15 hours at ambient temperature. The reaction mixture was then quenched with saturated aqueous solution of sodium bicarbonate and then crude products were extracted with methylene dichloride The organic layer was then washed with brine, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to an amino bound silica gel chromatography column and eluted with methylene dichloride/methanol=100/1 to furnish the title compound. Further, the title compound was recrystallized from ethyl acetate and hexane to furnish 341 mg (56% yield) of the title compound as a white solid.

reactant | (4-tert-butylphenoxy)acetic acid | 1.50 mmol, 330 mg | C(C)(C)(C)C1=CC=C(OCC(=O)O)C=C1 | C12H16O3
reactant | N-[4-(aminomethyl)phenyl]ethanesulfonamide hydrochloride | 1.80 mmol, 451 mg | Cl.NCC1=CC=C(C=C1)NS(=O)(=O)CC
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 2.25 mmol, 431 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 5.0 mmol, 506 mg | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 0.38 mmol, 46 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-tert-Butylphenoxy)-N-{4-[(ethylsulfonyl)amino]benzyl}acetamide | C(C)(C)(C)C1=CC=C(OCC(=O)NCC2=CC=C(C=C2)NS(=O)(=O)CC)C=C1 | C21H28N2O4S
